US08258135B2
A mixture of tert-butyl 4-cyanopiperidine-1-carboxylate (15.2 g, 72.3 mmol) and 2-fluoro-4-methylpyridine (9.64 g, 87.0 mmol) was dissolved in 361 mL of THF. The reaction was purged with a stream of nitrogen and cooled to −78° C. To this reaction was added 1.0 M sodium bis(trimethylsilyl)amide in THF (101 mL, 101 mmol), which was stirred for 1 hour. The reaction was warmed to ambient temperature, stirred for 36 hours, and quenched with a saturated ammonium chloride solution. The mixture was extracted with dichloromethane (3×200 mL). The combined organic extracts were dried over sodium sulfate, filtered, concentrated, and subjected to silica gel chromatography eluting with 0-25% EtOAc in hexanes to yield tert-butyl 4-cyano-4-(4-methylpyridin-2-yl)piperidine-1-carboxylate.

reactant | tert-butyl 4-cyanopiperidine-1-carboxylate | 72.3 mmol, 15.2 g | C(#N)C1CCN(CC1)C(=O)OC(C)(C)C | C11H18N2O2
reactant | 2-fluoro-4-methylpyridine | 87.0 mmol, 9.64 g | FC1=NC=CC(=C1)C | C6H6FN
reactant | sodium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 361 mL | C1CCOC1 | C4H8O
solvent | THF | 101 mmol, 101 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-cyano-4-(4-methylpyridin-2-yl)piperidine-1-carboxylate | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC(=C1)C | C17H23N3O2
